US05416212
N-(2,6-Diisopropylphenyl)-2-[2-(4-phenylpiperazinyl)ethylsulfonyl]acetamide (Compound 28)
A mixture of 3.46 g of N-(2,6-diisopropylphenyl)-2(2-chloroethylsulfonyl)acetamide synthesized in (1) above, 1.62 g of N-phenylpiperazine, and 50 ml of toluene was heated under reflux for 4 hours. To the reaction mixture was added 100 ml of ethyl acetate, and the mixture was washed successively with a sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to column chromatography using a mixture of ethyl acetate and hexane at a ratio varying from 1:1 to 1:0 as a developing solvent. The solvent was evaporated, and the residue was dissolved in ethyl acetate and crystallized from a 4N hydrochloric acid solution in ethyl acetate to obtain 3.33 g of the title compound as white powder (m.p.=197.0°-200.0° C.).

reactant | N-(2,6-diisopropylphenyl)-2(2-chloroethylsulfonyl)acetamide | 3.46 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CS(=O)(=O)CCCl)=O | C16H24ClNO3S
reactant | N-phenylpiperazine | 1.62 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(2,6-Diisopropylphenyl)-2-[2-(4-phenylpiperazinyl)ethylsulfonyl]acetamide | 3.33 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CS(=O)(=O)CCN1CCN(CC1)C1=CC=CC=C1)=O | C26H37N3O3S
